US04375476
[2,6-Dimethyl-3-(1-methylethyl)phenyl]methanol (0.7 g, 0.004 mole), cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxylic acid chloride (0.97 g, 0.004 mole), pyridine (2 ml) and dry toluene (150 ml) were combined to give [2,6-dimethyl-3-(1-methylethyl)phenyl]methyl cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxylate.

reactant | [2,6-Dimethyl-3-(1-methylethyl)phenyl]methanol | 0.004 mole, 0.7 g | CC1=C(C(=CC=C1C(C)C)C)CO | C12H18O
reactant | cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxylic acid chloride | 0.004 mole, 0.97 g | ClC(=C[C@H]1C([C@H]1C(=O)Cl)(C)C)C(F)(F)F | C9H9Cl2F3O
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | [2,6-dimethyl-3-(1-methylethyl)phenyl]methyl cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxylate | ClC(=C[C@H]1C([C@H]1C(=O)OCC1=C(C(=CC=C1C)C(C)C)C)(C)C)C(F)(F)F | C21H26ClF3O2
